US04237160
3(2-Hydroxyethyl)-11-oxo-10,11-dihydrodibenzo[b,f]thiepin 5,5-dioxide
Repeat the process of Example 6, substituting an equivalent quantity of 10,11-dihydro-11-oxodibenzo[b,f]thiepin-3-acetic acid 5,5-dioxide for the dibenzo[b,f]thiepin-3-carboxylic acid, to obtain the title product.

reactant | 10,11-dihydro-11-oxodibenzo[b,f]thiepin-3-acetic acid 5,5-dioxide | O=C1C2=C(S(C3=C(C1)C=CC=C3)(=O)=O)C=C(C=C2)CC(=O)O | C16H12O5S
reactant | dibenzo[b,f]thiepin-3-carboxylic acid | C1=CC(=CC=2SC3=C(C=CC21)C=CC=C3)C(=O)O | C15H10O2S
product | 3(2-Hydroxyethyl)-11-oxo-10,11-dihydrodibenzo[b,f]thiepin 5,5-dioxide | OCCC=1C=CC2=C(S(C3=C(CC2=O)C=CC=C3)(=O)=O)C1 | C16H14O4S
